US04619783
4-Ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-azetidine
To a cooled (0° C.) solution of 572 mg sodium hydroxide in 50 ml. water was added 1.32 ml. of ethanthiol. After 10 minutes a solution of 5.02 g. 4-acetoxy-3-(p-nitrobenzyloxycarbonyloxyethyl)-2-oxo-azetidine in 100 ml. dichloromethane was added and the mixture was stirred vigorously at 0° C. for 30 minutes then at 25° C. for 3 hours. The dichloromethane layer was separated and the aqueous phase was extracted with two 70 ml. portions of dichloromethane. The combined dichloromethane extracts were washed with 70 ml. water, then with 70 ml. saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to an oil. The crude product was purified by column chromatography silica gel, eluting with 5:1 chloroform ethyl acetate, to obtain 4.15 g. of the title compound.

reactant | sodium hydroxide | 572 mg | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethanthiol | C(C)S | C2H6S
reactant | 4-acetoxy-3-(p-nitrobenzyloxycarbonyloxyethyl)-2-oxo-azetidine | C(C)(=O)OC1C(C(N1)=O)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N2O8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-azetidine | C(C)SC1C(C(N1)=O)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O6S
